US06346633B1
Using an analogous procedure to that described in the first paragraph of the portion of Example 21 which is concerned with the preparation of starting materials, 2,3-dimethyl-1,4-benzoquinone was reacted with methyl 3-oxalooxy-3,4-dimethylpentanoate to give methyl 3-(2,3-dimethyl-1,4-benzoquinonyl)-3,4-dimethylpentanoate in 36% yield; NMR Spectrum: (CDCl3) 0.6 (d, 3H), 0.86 (d, 3H), 1.02 (s, 3H), 1.93 (s, 3H), 1.94 (s, 3H), 2.32 (, 1H), 2.45 (d, 1H), 3.31 (d, 1H), 3.45 (s, 3H), 6.38 (s, 1H).

reactant | 2,3-dimethyl-1,4-benzoquinone | CC=1C(C=CC(C1C)=O)=O | C8H8O2
reactant | methyl 3-oxalooxy-3,4-dimethylpentanoate | C(=O)(C(=O)O)OC(CC(=O)OC)(C(C)C)C | C10H16O6
product | methyl 3-(2,3-dimethyl-1,4-benzoquinonyl)-3,4-dimethylpentanoate | 36% yield | CC=1C(C=C(C(C1C)=O)C(CC(=O)OC)(C(C)C)C)=O | C16H22O4
